US07026352B1
(8E,12E,14E)-3,6,21-Trihydroxy-6,10,12,16,20-pentamethyl-7-(morpholin-4-yl)acetoxy-18,19-epoxytricosa-8,12,14-trien-11-olide
Pyridinium p-toluenesulfonate (2.2 mg, 8.71 μmol) was added to a solution of (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(morpholin-4-yl)acetoxy-18,19-epoxytricosa-8,12,14-trien-11-olide (7.3 mg, 8.71 μmol) in methanol (1 mL), followed by stirring at room temperature overnight. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate, water and a saturated sodium bicarbonate aqueous solution. The mixture was extracted with ethyl acetate, and the resulting organic layer was dried over anhydrous magnesium sulfate, filtered and then evaporated. The resulting residue was purified by thin layer chromatography (MERCK Silica gel 60 F254, 0.2 mm, developing solution; methanol-dichloromethane=1:19) to obtain the title compound (4.4 mg, 82%) as a colorless oil.

reactant | Pyridinium p-toluenesulfonate | 8.71 μmol, 2.2 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(morpholin-4-yl)acetoxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 8.71 μmol, 7.3 mg | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)OC(CN1CCOCC1)=O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C | C46H79NO12
solvent | methanol | 1 mL | CO | CH4O
product | (8E,12E,14E)-3,6,21-Trihydroxy-6,10,12,16,20-pentamethyl-7-(morpholin-4-yl)acetoxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 4.4 mg, 82% | OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)O)OC(CN1CCOCC1)=O)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)C)\C | C34H55NO9
